US04124639
Preparation of α3 -methoxy-N-(2-methoxy-1-methylethyl)-3,4-Xylidine
A mixture of methyl 2-methyl-5-nitrobenzyl ether (12 g, 0.066M), methoxyacetone [20 g (used as solvent)], 2-naphthalenesulfonic acid (0.3 g) and 5% Pt/C (0.7 g) is shaken on a Parr hydrogenator maintaining the temperature below 40° with external cooling. The theoretical amount of hydrogen (0.26M) is consumed and further uptake ceases after 2 hours.

reactant | methyl 2-methyl-5-nitrobenzyl ether | 0.066M, 12 g | CC1=C(COC)C=C(C=C1)[N+](=O)[O-] | C9H11NO3
reactant | methoxyacetone | 20 g | COCC(C)=O | C4H8O2
reactant | 2-naphthalenesulfonic acid | 0.3 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
catalyst | Pt/C | 0.7 g | [Pt] | Pt
product | methoxy-N-(2-methoxy-1-methylethyl)-3,4-Xylidine | CON(C1=CC(=C(C=C1)C)C)C(COC)C | C13H21NO2
